Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
___
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HPI: The patient is a ___ year-old right-hand man with a history
of left MCA ischemic stroke (___), atrial fibrillation on
Pradaxa, depression who presents because of progressive 
cognitive
decline. 

As the patient's speech is sparse (see examination below), his
wife provided most of the following details in the ED.  

The wife notes that Mr. ___ was last well in ___.  In
fact, despite his stroke in ___, he had not focal
neurological deficits and was able to write sophisticated
scientific journal articles and apply for grants as a ___. 

However in ___, his wife and coworkers started to not that
he was unable to perform to his previous level.  His wife noted
that he was very unproductive compared to previously and had
difficulty focusing. Over the past ___ weeks there was a steeper
course of decline wherein he would sit for hours in front of the
computer and not get any thing done.  He would also have very
little speech output, although could say full sentences
sometimes.  

His wife noted that at times he was very fidgety and anxious
about things that were atypical for him.  He would say "we are
homeless and I am losing my job" or would pine over a
conversation he just had with a person.  Both his anxiety and
language output actually would improve with ativan. 

There were also complaints of unsteadiness while walking that
comes and goes.  His wife acknowledges that there is no real
weakness, but it seems there is a volitional component.  There 
is
noticeable improvement of his walking with Ativan too. 

He first presented to the ED on ___ for these issues, and was
discharged with Neurology follow-up and MRI.  However given
miscommunication,  he has not had either a follow-up visit or an
MRI.

With regard to his prior left MCA stroke, he presented with
impaired verbal comprehension and was noted to have semantic
paraphasias.   His neurologic deficits completely resolved in 3
days.

Recently, he was seen by a psychiatrist who started him on
Zoloft, given his presentation could be of his depression.  
However given the lack of improvement, he stopped the Zoloft on
___.  

On neurologic review of systems, the patient denies headache,
lightheadedness. Denies loss of vision, blurred vision, 
diplopia,
vertigo, tinnitus, hearing difficulty, dysarthria, or dysphagia.

Denies focal muscle weakness, numbness, parasthesia. Denies loss
of sensation. Denies bowel or bladder incontinence or retention.
Denies difficulty with gait.

 
Past Medical History:
Atrial Fibrillation- no on coumadin because the patient is
very interested in being a blood donor
Gluten Allergy

 
Social History:
___
Family History:
No family history of early strokes or MIs, but father
with a history of quadruple bypass surgery at relatively young
age. Father died of myelodysplastic syndrome. Mother died at ___
of age related causes.

 
Physical Exam:
VS 98.2 91 100/63 18 98% RA 
General: appears anxious, slightly agitated, constant fidgeting
movement of hands, at times takes off his gown top and says he 
is
leaving. 
HEENT: NC/AT,  Dry MM, no oropharyngeal lesions, supple, no
nuchal rigidity, no meningismus, no carotid/subclavian/vertebral
bruits  
___: irregularly irregular rhythm, no M/R/G 
Pulmonary: CTAB, no crackles or wheezes
Abdomen: Soft, NT, ND, no guarding 
Extremities: Warm, no edema, palpable radial/dorsalis pedis
pulses
Skin: No rashes or lesions

Neurologic Examination:
- Mental Status - Awake, alert, oriented x 3. Attention to
examiner easily attained and maintained.  His voice is 
hypophonic
and limited of prosodic overlay.  While speech is fluent and
gramatically correct, it is sparse and comes in spurts.  Once he
starts speaking he may speak a few sentences before stopping and
then not speak for over 15 minutes.  Structure of speech
demonstrates fluency with full sentences, intact repetition, and
naming.  He does have difficulty following complex commands
(Tough the triangle with your ring finger and then put your 
thumb
on the letter G (he mixed up the hands and was slow).  No
dysarthria. No evidence of hemineglect. No left-right agnosia.

- Cranial Nerves - PERRL 4->2 brisk. VF full to number counting.
EOMI, no nystagmus. V1-V3 without deficits to light touch
bilaterally. No facial movement asymmetry. Hearing intact to
finger rub bilaterally.  Palate elevation symmetric.
SCM/Trapezius strength ___ bilaterally. Tongue midline.

- Motor - Normal bulk. There is paratonia of bilateral upper
extremities.  Some question of cogwheeling of the right wrist,
although confounded by the prior paratonia.  No drift. There is 
a
fine postural tremor. Of note, there is give way weakness in the
lower extremities (hams/quads only).
   Delt  Bic  Tri  WrE  FE  Ffl  IO   IP  Quad Ham TA ___ 
___
L   5     5    5     5     5     5   5    5     5   5    5    5  


R   5     5    5     5     5     5   5    5     5   5    5    5

- Sensory - No deficits to light touch, pin, or proprioception
bilaterally.

- Reflexes
=[Bic] [Tri] [___] [Quad] [___]
L 2      2      2      2        2
R 2      2      2      2        2
Plantar response flexor bilaterally.

- Coordination - No dysmetria with finger to nose testing
bilaterally. Good speed and intact cadence with rapid 
alternating
movements.

- Gait - Normal initiation. Narrow base. Normal stride length 
and
arm swing. Stable without sway. No Romberg.

DISHCARGE EXAM
Normal neurologic exam. Mental status was quite improved from 
admission, with normal prosody of speech, and affect was intact. 
He was alert, awake, and attentive, with good recall of recent 
events.
 
Pertinent Results:
ADMISSION LABS:
___ 09:40PM BLOOD WBC-8.5 RBC-4.92 Hgb-16.1 Hct-47.5 MCV-97 
MCH-
32.7* MCHC-33.8 RDW-12.1 Plt ___
___ 09:40PM BLOOD Neuts-74.7* ___ Monos-5.0 Eos-0.4 
Baso-0.6
___ 09:53PM BLOOD ___ PTT-37.0* ___
___ 09:40PM BLOOD Glucose-112* UreaN-17 Creat-0.9 Na-137 
K-4.3 Cl-100 HCO3-26 AnGap-15
___ 09:40PM BLOOD ALT-22 AST-27 AlkPhos-59 TotBili-0.6
___ 09:40PM BLOOD Lipase-47
___ 09:40PM BLOOD cTropnT-<0.01
___ 09:40PM BLOOD Albumin-4.6 Calcium-9.4 Phos-3.5 Mg-2.1
___ 09:40PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 09:40PM BLOOD TSH-PND
___ 09:30PM URINE Color-Yellow Appear-Clear Sp ___
___ 09:30PM URINE Blood-NEG Nitrite-NEG Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 09:30PM URINE RBC-<1 WBC-<1 Bacteri-NONE Yeast-NONE 
Epi-0
 
Brief Hospital Course:
Mr. ___ was admitted to the stroke service out of concern 
for a new stroke contributing to abulia.

On the morning following admission, his mental status was 
intact, and there was no concern for abulia. It was therefore 
deteremined that there was no need for an inpatient workup. He 
was scheduled for an outpatient MRI and outpatient 
neuropsychiatric testing. He was instructed to follow up with 
Dr. ___ stroke neurologist.

OUTSTANDING ISSUES
[ ] MRI brain to be scheduled
[ ] Neuropsych testing to be scheduled
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Dabigatran Etexilate 150 mg PO BID 
2. Lorazepam 0.5-2 mg PO Q8H:PRN anxiety 

 
Discharge Medications:
1. Dabigatran Etexilate 150 mg PO BID 
2. Lorazepam 0.5-2 mg PO Q8H:PRN anxiety 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Prior stroke

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ for a change 
in your mood and attention, which was concerning for a new 
stroke. However, while you were here, we noted that you actually 
looked quite good and we are not concerned that you have had a 
new stroke that is causing these symptoms. Therefore, we are 
scheduling you for an outpatient MRI instead, and follow up with 
Dr. ___.

You will also need to undergo neuropsychtric testing. Please 
call ___  to schedule this.

Please call ___ to schedule your MRI, and ___ 
to schedule your follow up with Dr. ___.

None of your medications were changed on this admission.

It was a pleasure taking care of you.
 
Followup Instructions:
___